US05922742
Step 3: 2-(2-Methyl-5-pyridinyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one
To a degassed r.t. solution of 2-bromo-3-(4-(methylsulfonyl)-phenyl)-2-cyclopenten-1-one (0.315 g, 1.0 mmol), Pd2 (dba)3 (0.018 g, 0.02 mmol), and AsPh3 (0.049 g, 0.16 mmol) in NMP (2.5 mL) was added a degassed NMP solution (2.5 mL) of 5-trimethylstannanyl-2-methylpyridine (~2.0 mmol). The resulting mixture was heated to 60° C. for 16 hours, then to 100° C. for a further 3.5 h. The mixture was then cooled to r.t., diluted with EtOAc, washed 2 times with 10% NH4OH and brine, dried over MgSO4, and concentrated to dryness. The residue was purified by flash chromatography (100% EtOAc/hexanes) to provide 0.070 g of the title compound as a rigid foam.

reactant | 2-bromo-3-(4-(methylsulfonyl)-phenyl)-2-cyclopenten-1-one | 1.0 mmol, 0.315 g | BrC=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H11BrO3S
reactant | AsPh3 | 0.16 mmol, 0.049 g | C=1C=CC(=CC1)[As](C=2C=CC=CC2)C=3C=CC=CC3 | C18H15As
reactant | 5-trimethylstannanyl-2-methylpyridine | ~2.0 mmol | C[Sn](C=1C=CC(=NC1)C)(C)C
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2 (dba)3 | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
product | 2-(2-Methyl-5-pyridinyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one | 0.070 g | CC1=NC=C(C=C1)C=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H17NO3S
